US08124621B2
c) 4-(4-Aminophenyl)-6-chloro-1-methylamino-3,4-dihydroisoquinoline
135.2 mg of iron powder were added to a solution of 255 mg of 6-chloro-1-methylamino-4-(4-nitrophenyl)-3,4-dihydroisoquinoline in 4.5-5 ml of glacial acetic acid and then 1.8 ml of concentrated hydrochloric acid were added dropwise, and the mixture was boiled under reflux conditions for 2 hours. The solvent was removed by distillation, and the residue was mixed with water and made alkaline with 2N NaOH. This aqueous phase was extracted with ethyl acetate and purified by MPLC chromatography using an MPRC cartridge with a mixture of 10 parts by volume of ethyl acetate, 5 parts by volume of n-heptane, 5 parts by volume of dichloromethane, 5 parts by volume of methanol and 1 part by volume of concentrated aqueous ammonia solution. Amorphous product.

reactant | 6-chloro-1-methylamino-4-(4-nitrophenyl)-3,4-dihydroisoquinoline | 255 mg | ClC=1C=C2C(CN=C(C2=CC1)NC)C1=CC=C(C=C1)[N+](=O)[O-] | C16H14ClN3O2
reactant | hydrochloric acid | 1.8 ml | Cl | ClH
solvent | acetic acid | 4.5-5 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 135.2 mg | [Fe] | Fe
product | 4-(4-Aminophenyl)-6-chloro-1-methylamino-3,4-dihydroisoquinoline | NC1=CC=C(C=C1)C1CN=C(C2=CC=C(C=C12)Cl)NC | C16H16ClN3
